US06093382
B) 4-Chloro-4-methyl-1-(phthalimido)-3-nitrosopentane (51)
To a cooled (0-5° C.) solution of 4-methyl-1-(phthalimido)-3-pentene (5.0 g, 0.022 mol) and isoamyl nitrite (13.0 g, 15 mL, 0.11 mol) was added concentrated hydrochloric acid (4.0 mL, 0.04 mol) with stirring. The reaction mixture was maintained below 5° C. during the addition and stirred at 5° C. for an additional 2 h. The solid formed was filtered and washed with cold ether:ethanol (3:1, 150 mL) and dried. Yield: 4.72 g (72.8%). It was crystallized from acetonitrile. mp 140-141° C. MS: (M+H)+ =296.0.

reactant | 4-methyl-1-(phthalimido)-3-pentene | 0.022 mol, 5.0 g | CC(=CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C14H15NO2
reactant | isoamyl nitrite | 0.11 mol, 15 mL, 13.0 g | N(=O)OCCC(C)C | C5H11NO2
reactant | hydrochloric acid | 0.04 mol, 4.0 mL | Cl | ClH
product | 4-Chloro-4-methyl-1-(phthalimido)-3-nitrosopentane | ClC(C(CCN1C(C=2C(C1=O)=CC=CC2)=O)N=O)(C)C | C14H15ClN2O3
